US06150385
Preparation of N-(5-Amino-1,3,4-thiadiazol-2-yl)-N-phenethylamine.
A mixture of 5-bromo-1,3,4-thiadiazol-2-ylamine (360 mg), phenethylamine (0.38 ml), and K2HPO4 (522 mg) in 2 ml of DMF is heated under nitrogen at 100° C. for two hours, then partitioned between water and ethyl acetate. The organic phase is washed with water and brine, dried over MgSO4, and concentrated under reduced pressure. Flash chromatography of the residue on silica using 4-5% methanol in dichloromethane provides 261 mg of the title compound. Recrystallization of 238 mg of this from 10 ml of 1:1 acetonitrile toluene affords 205 mg of crystals.

reactant | 5-bromo-1,3,4-thiadiazol-2-ylamine | 360 mg | BrC1=NN=C(S1)N | C2H2BrN3S
reactant | phenethylamine | 0.38 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | K2HPO4 | 522 mg | OP(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(5-Amino-1,3,4-thiadiazol-2-yl)-N-phenethylamine | 261 mg | NC1=NN=C(S1)NCCC1=CC=CC=C1 | C10H12N4S
